US06680326B2
a) Preparation of 5,7-dioxo-6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid (3-methoxy-phenyl)-amide
5,7-Dioxo-6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid ethyl ester (100 mg) (see D. Binder, Monatshefte für Chemie, Vol. 105, Pp. 179-186, 1974), m-anisidine (0.124 ml) and acetic acid (0.052 ml) were suspended in toluene (5 ml). This mixture was refluxed for 2 hours under nitrogen. The mixture was cooled to room temperature and the ppt was collected with suction. The ppt was washed with toluene and dichloromethane and dried under reduced pressure to give a brown powder (112 mg). ESI−MS: m/z 297 (MH+); 1H-NMR (DMSO-d6): δ3.74 (3H, s), 6.54 (1H, dd, J=8.5 Hz, J=2.5 Hz), 7.04 (1H, bd, J=8.5 Hz), 7.16 (1H, t, J=8.5 Hz), 7.38 (1H, dd, J=7.0 Hz, 4.5 Hz), 7.44 (1H, t-like, 2.5 Hz), 7.70 (1H, dd, J=7.0 Hz, 1.5 Hz), 8.57 (1H, dd, J=4.5 Hz, 1.5 Hz), 10.79 (1H, s).

reactant | 5,7-Dioxo-6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)C1C(C=2C=CC=NC2C1=O)=O | C11H9NO4
reactant | m-anisidine | 0.124 ml | COC1=CC(=CC=C1)N | C7H9NO
reactant | acetic acid | 0.052 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5,7-dioxo-6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid (3-methoxy-phenyl)-amide | 112 mg | COC=1C=C(C=CC1)NC(=O)C1C(C=2C=CC=NC2C1=O)=O | C16H12N2O4
